US04496560
A solution of acetyl chloride (1.51 cc) in dry tetrahydrofuran (10 cc) is added dropwise, in 5 minutes, to a solution, cooled to 0° C., of 3-(2-aminothiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (10 g) in dry tetrahydrofuran (150 cc), and a solution of triethylamine (2.8 cc) in dry tetrahydrofuran (5 cc) is then added. The reaction mixture is stirred for 1 hour 30 minutes at about 0°-5° C. and is then treated with further acetyl chloride (1.51 cc) in tetrahydrofuran (10 cc). After 1 hour 50 minutes at 5° C., the reaction mixture is filtered and the filtrate is concentrated to 50 cc and diluted with ethyl acetate (250 cc). The organic phase is washed with a saturated sodium bicarbonate solution (100 cc), with distilled water (100 cc) and with a half-saturated sodium chloride solution (100 cc) and is then dried over magnesium sulphate and concentrated to dryness. Crude 3-(2-acetylamino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicylo[4.2.0]oct-2-ene (10 g) is obtained in the form of a brown froth. Crystallisation from acetonitrile (25 cc) gives pure 3-(2-acetylamino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (5.9 g) in the form of a whitish crystalline powder whose characteristics are identical to those of the product obtained in variant (A).

reactant | acetyl chloride | 1.51 cc | C(C)(=O)Cl | C2H3ClO
reactant | 3-(2-aminothiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 10 g | NC=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4O5S2
reactant | triethylamine | 2.8 cc | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.51 cc | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
product | 3-(2-acetylamino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 5.9 g | C(C)(=O)NC=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H30N4O6S2
